US07989462B2
(4-Acetamido-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine
To a solution of (4-amino-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine (28 mg, 0.11 mmol) in 2 mL of dichloromethane with triethylamine (50 uL, 0.36 mmol) cooled at 0° C. was added acetic anhydride (50 uL, 0.53 mmol), followed by a few crystals of 4-dimethylaminopyridine, and the mixture was allowed to warm to room temperature. The reaction mixture was stirred for 0.5 h and 25 mL of ethyl acetate was added. The solution was washed with saturated NaHCO3, dried over anhydrous Na2SO4, filtered and concentrated. The crude was purified by column chromatography (80% ethyl acetate/hexane) to give the title compound (32.5 mg, 0.11 mmol, 100%). 1H NMR (CDCl3): 7.75 (d, J=8.1, 1H), 7.5-7.57 (m, 3H), 6.94-7.12 (m, 4H), 3.60 (s, 3H), 2.72 (s, 3H), 2.42 (s, 3H).

reactant | (4-amino-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine | 0.11 mmol, 28 mg | NC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H16N4
reactant | triethylamine | 0.36 mmol, 50 uL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.53 mmol, 50 uL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (4-Acetamido-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine | 0.11 mmol, 32.5 mg, 100% | C(C)(=O)NC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C18H18N4O
